US07728025B2
(Step 3) Production of t-butyl 2-(5-ethoxycarbonyl-2-methoxymethoxy-phenyl)-pyrrolidine-1-carboxylate
8.2 g of 5% platinum-carbon catalyst was added to an ethanol (400 ml) solution of 28.4 g of t-butyl 2-(5-ethoxycarbonyl-2-methoxymethoxy-phenyl)-pyrrole-1-carboxylate, and the reaction liquid was stirred for 3 days in a hydrogen atmosphere. The catalyst was removed through filtration through Celite, and the solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=1/6.5 to 1/6) to obtain the entitled compound as a colorless oily substance.

reactant | t-butyl 2-(5-ethoxycarbonyl-2-methoxymethoxy-phenyl)-pyrrole-1-carboxylate | 28.4 g | C(C)OC(=O)C=1C=CC(=C(C1)C=1N(C=CC1)C(=O)OC(C)(C)C)OCOC | C20H25NO6
reactant | hydrogen | [H][H] | H2
catalyst | platinum carbon | 8.2 g | [Pt].[C]
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | t-butyl 2-(5-ethoxycarbonyl-2-methoxymethoxy-phenyl)-pyrrolidine-1-carboxylate | C(C)OC(=O)C=1C=CC(=C(C1)C1N(CCC1)C(=O)OC(C)(C)C)OCOC | C20H29NO6
